US04294960
4-Nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-ethoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 2.52 g.), 10% palladium carbon (1.3 g.) ethanol (13 ml.), tetrahydrofuran (25 ml.), acetic acid (0.22 ml.) and water (2.2 ml.) were treated in a similar manner to that of Example 15-(2) to give 7-[2-(2-formamidothiazol-4-yl)-2-ethoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.4 g.).

reactant | 4-Nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-ethoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylate | 2.52 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCC(=O)OCC | C24H22N6O10S2
reactant | ethanol | 13 ml | C(C)O | C2H6O
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | acetic acid | 0.22 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 1.3 g | [C].[Pd]
solvent | water | 2.2 ml | O | H2O
product | 7-[2-(2-formamidothiazol-4-yl)-2-ethoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.4 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC(=O)OCC | C17H17N5O8S2
